US05025036
To 0.6 g (0.08 g-atoms) of lithium ribbon cut in small pieces in 40 mL of anhydrous ether stirred at room temperature under an argon atmosphere was added 9.5 g (0.04 mol) of 5-bromopentanol 2-ethoxyethyl ether. After about 1 mL was added, the reaction mixture was cooled to -5° and the rest of the bromo compound was added dropwise. Stirring at -5° was continued for 1 hour and then 6.0 g (0.03 mol) of 2-chloro-3,4-dimethoxybenzaldehyde [J. Weinstock et al., J. Med. Chem., 29, 2315 (1986)] in 50 mL of ether-20 mL of tetrahydrofuran was added dropwise over 1 hour. The cooling bath was removed and stirring was continued for 1 hour. The reaction mixture was worked up as in Example 10 to yield an oil which was dissolved in 25 mL of ethanol, 20 mL of water and 2 mL of concentrated hydrochloric acid was added. The solution was left at 25° for 45 minutes. Potassium carbonate was added with stirring until the mixture was basic. The ethanol was removed under reduced pressure and the product was extracted with ethyl acetate. The dried extract was concentrated to an oil (10 g). This was purified by HPLC using 60% ethyl acetate-hexane to give 2.9 g (34% yield), mp 75°-70°, of 6-(2-chloro-3,4-dimethoxybenzene)-6-hydroxyhexanol. This was dissolved in 50 mL of ethanol, 0.3 g of 10% palladium on carbon was added and the mixture was shaken under an initial hydrogen pressure of 54 psi for 21 hours. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure to an oil. Purification by HPLC using 15% ethyl acetate-toluene gave 1.74 g (64% yield) of 2-chloro-3,4-dimethoxybenzene hexanol as an oil. The structure was confirmed by nmr and mass spectra (molecular ion at m/e 272).

reactant | lithium | 0.6 g | [Li] | Li
reactant | 5-bromopentanol 2-ethoxyethyl ether | 0.04 mol, 9.5 g | C(C)OCCOCCCCCBr | C9H19BrO2
reactant | 2-chloro-3,4-dimethoxybenzaldehyde | 0.03 mol, 6.0 g | ClC1=C(C=O)C=CC(=C1OC)OC | C9H9ClO3
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-3,4-dimethoxybenzene hexanol | 1.74 g, 64% yield | ClC1=C(C=CC(=C1OC)OC)CCCCCCO | C14H21ClO3
